US06423689B1
2-Amino-2-methyl-3-(4-benzyloxy-phenyl)-propionic acid hydrobromide salt
A solution of α-methyltyrosine (Aldrich Chemical Co., 10.0 g, 51.2 mmol) in 50 mL of 2N NaOH solution was treated with 40 mL of a 0.5 M solution of aqueous CuSO4. The resulting solution was stirred for 45 minutes. The resulting solution was treated with 150 mL of methanol and benzyl bromide (6.7 mL, 56.3 mmol) and stirred for an additional 45 minutes at 50° C. The light purple precipitate which formed was collected by suction filtration and dried under vacuum. The isolated solid was suspended in water and treated with 13 mL of concentrated hydrochloric acid. The suspended solid was collected by filtration, washed sequentially with 1N HCl solution and ether and then dried under vacuum at 45° C. (96 hr) to give the product as an off-white solid (8.7 g, 46%), mp=228-231° C. (dec).

reactant | α-methyltyrosine | 51.2 mmol, 10.0 g | C[C@](N)(CC1=CC=C(C=C1)O)C(=O)O | C10H13NO3
reactant | methanol | 150 mL | CO | CH4O
reactant | benzyl bromide | 56.3 mmol, 6.7 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | NaOH | 2N, 50 mL | [OH-].[Na+]
catalyst | CuSO4 | [O-]S(=O)(=O)[O-].[Cu+2]
product | 2-Amino-2-methyl-3-(4-benzyloxy-phenyl)-propionic acid hydrobromide salt | 8.7 g, 46% | Br.NC(C(=O)O)(CC1=CC=C(C=C1)OCC1=CC=CC=C1)C | InChI=1S/C17H19NO3.BrH/c1-17(18,16(19)20)11-13-7-9-15(10-8-13)21-12-14-5-3-2-4-6-14;/h2-10H,11-12,18H2,1H3,(H,19,20);1H
